US05527905
3-[(R)-1-Hydroxyethyl]-2-oxoazetidine-4-carboxylic acid
3(b) 500 mg of the benzyl 3-[(R)-1-hydroxyethyl]-2-oxoazetidine-4-carboxylate (prepared as described in above) were dissolved in 5 ml of methanol, and the mixture was hydrogenated in the presence of 100 mg of a 0% w/w palladium-on-carbon catalyst at room temperature for 2 hours. At the end of this time, the catalyst was removed by filtration. The filtrate was concentrated by evaporation under reduced pressure, to give 310 mg of the title compound as a colorless oil.

reactant | benzyl 3-[(R)-1-hydroxyethyl]-2-oxoazetidine-4-carboxylate | O[C@H](C)C1C(NC1C(=O)OCC1=CC=CC=C1)=O | C13H15NO4
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 3-[(R)-1-Hydroxyethyl]-2-oxoazetidine-4-carboxylic acid | 310 mg | O[C@H](C)C1C(NC1C(=O)O)=O | C6H9NO4
